US08729077B2
Step 3: (R)-3-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-1,8-dioxa-4-aza-spiro[4.5]decane-4-carboxylic acid benzyl ester
(S)-3-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-1,8-dioxa-4-aza-spiro[4.5]decane-4-carboxylic acid benzyl ester (1.13 gm, 2.18 mmol) was dissolved in xylenes (11 mL), ammonium acetate (0.84 gm, 10.94 mmol) was added as a solid and the mixture was heated at 140° C. for 24 h. The mixture was diluted with ethyl acetate (50 mL) and the organic layer was washed (aqueous NaHCO3, water, brine) and dried. This crude product was purified by silica gel chromatography (3:2 mixture of EtOAc:hexanes) to afford 0.62 gm (57%) of the title compound. LCMS 500.9 (M+2)

reactant | (S)-3-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-1,8-dioxa-4-aza-spiro[4.5]decane-4-carboxylic acid benzyl ester | 2.18 mmol, 1.13 gm | C(C1=CC=CC=C1)OC(=O)N1[C@@H](COC12CCOCC2)C(NCC(=O)C2=CC=C(C=C2)Br)=O | C24H25BrN2O6
reactant | ammonium acetate | 10.94 mmol, 0.84 gm | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (R)-3-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-1,8-dioxa-4-aza-spiro[4.5]decane-4-carboxylic acid benzyl ester | 0.62 gm, 57% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](COC12CCOCC2)C=2NC=C(N2)C2=CC=C(C=C2)Br | C24H24BrN3O4
